US07060827B2
In like manner to the preparation of 5-fluoro-N4-(3-hydroxyphenyl)-N2-[4-(3-phenyl-1,2,4-oxadiazol-5-yl)methyleneoxyphenyl]-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 2-fluoro-5-methylaniline were reacted to provide N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-fluoro-5-methylphenyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 8.11 (dd, 1H, J=1.8 and 8.1 Hz), 7.94 (d, 1H, J=2.7 Hz), 7.08–6.84 (m, 4H), 6.74–6.67 (m, 1H), 6.64–6.59 (m, 1H), 4.27 (s, 4H), 2.28 (s, 3H); 19F NMR (282 MHz, CDCl3): −38659, −47267; LCMS: purity: 100%; MS (m/e): 371(MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 2-fluoro-5-methylaniline | FC1=C(N)C=C(C=C1)C | C7H8FN
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-fluoro-5-methylphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=C(C=CC(=C1)C)F | C19H16F2N4O2
